US03997588
A solution consisting of 2.1 parts of [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium chloride in 50 parts of water is added with stirring to 2 parts of sodium bromide. At the end of about 5 minutes an additional 4 parts of sodium bromide is added and the mixture is stirred until precipitation is complete. The precipitate is isolated by filtration, thus affording [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium bromide. This product is characterized by 60-MHz nuclear magnetic resonance peaks in CDCl3 (deuterated chloroform) at 107 cps (multiplet), 170 cps (multiplet), 228 cps (multiplet), 329 cps (doublet, J≃18 cps) in addition to the aromatic protons, by microanalytic determination of bromide.

reactant | [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium chloride | [Cl-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bromide | [Br-].[Na+]
solvent | water | O | H2O
product | [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium bromide | [Br-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H24OP.BrH/c1-4-13-22(14-5-1)26(23-15-6-2-7-16-23,24-17-8-3-9-18-24)20-21-12-10-11-19-25-21;/h1-9,13-18,20H,10-12,19H2;1H/q+1;/p-1
